US06469224B1
The reaction was carried out completely in the same manner as in Example 21, except that p-fluoronitrobenzene was used instead of p-chloronitrobenzene and sodium phenolate was used instead of potassium fluoride in Example 21. Further, the reaction temperature was changed to 80° C. and the reaction time was changed to 3 hours without pursuing the reaction on halfway. Objective 4-phenoxynitrobenzene was produced in the yield of 98%.

reactant | p-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium phenolate | C1(=CC=CC=C1)[O-].[Na+]
product | 4-phenoxynitrobenzene | yield of 98% | O(C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO3
